US09422244B2
1.51 g (1 mol equiv.) 3-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide was dissolved in 30 mL methanol, 5.1 mL (10 mol equiv.) iodomethane was added and the reaction mixture was heated at 50° C. for 1 hour. Volatiles were removed in vacuo. The residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness to give 1.44 g (89%) 3,N-diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 1.12-1.21 (m, 6H), 2.39 (q, J=7.4 Hz, 2H), 2.48 (s, 3H), 2.70 (t, J=9.7 Hz, 2H), 3.52 (q, J=7.2 Hz, 2H), 3.75 (t, J=9.7 Hz, 2H).

reactant | 3-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 1 mol, 1.51 g | C(C)NC(=S)N1N=C(CC1)CC | C8H15N3S
reactant | iodomethane | 10 mol, 5.1 mL | IC | CH3I
solvent | methanol | 30 mL | CO | CH4O
product | 3,N-diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1.44 g, 89% | CSC(=NCC)N1N=C(CC1)CC | C9H17N3S
